US05733935
0.37 g of sodium hydride (60% in oil) was suspended in 10 ml of tetrahydrofuran, and 0.8 g of methyl N-methoxycarbamate and 0.96 g of chloromethylpropargyl ether were added thereto in this order while being cooled with ice. The mixture was heat-refluxed for 1 hour. After completion of the reaction, water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was dried, concentrated and purified by silica gel column chromatography to obtain 1.0 g of methyl N-methoxy-N-propargyloxymethylcarbamate.

reactant | sodium hydride | 0.37 g | [H-].[Na+]
reactant | methyl N-methoxycarbamate | 0.8 g | CONC(OC)=O | C3H7NO3
reactant | chloromethylpropargyl ether | 0.96 g | ClCOCC#C | C4H5ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl N-methoxy-N-propargyloxymethylcarbamate | 1.0 g | CON(C(OC)=O)COCC#C | C7H11NO4
